US07569579B2
Preparation 35: [((1R,2R)-1-(3-chlorophenyl)-2-{2-[(phenylmethyl)oxy]ethyl}cyclopropyl)methyl]amine
A solution of (1R,2R)-1-(3-chlorophenyl)-2-{2-[(phenylmethyl)oxy]ethyl}cyclopropanecarbonitrile (1.26 g, 4.0 mmol) in diethyl ether at 0° C. was treated with 2 equivalents of LAH (1M in diethyl ether). After 1.5 hours at 0° C., water was added dropwise until no further evolution of gas was observed. The aluminum salts were filtered off and washed with diethyl ether. Evaporation of the diethyl ether afforded the title compound. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.5 (dd, J=5.9, 4.8 Hz, 1H) 1.0 (dd, J=8.9, 4.7 Hz, 1H) 1.2 (m, 1H) 1.4 (s, 2H) 1.8 (m, 2H) 2.9 (m, 2H) 3.6 (m, 2H) 4.6 (s, 2H) 7.2 (m, 3H) 7.3 (m, 2H) 7.4 (m, 4H).

reactant | (1R,2R)-1-(3-chlorophenyl)-2-{2-[(phenylmethyl)oxy]ethyl}cyclopropanecarbonitrile | 4.0 mmol, 1.26 g | ClC=1C=C(C=CC1)[C@@]1([C@H](C1)CCOCC1=CC=CC=C1)C#N | C19H18ClNO
reactant | LAH | 1M, 2 equivalents | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | [((1R,2R)-1-(3-chlorophenyl)-2-{2-[(phenylmethyl)oxy]ethyl}cyclopropyl)methyl]amine | ClC=1C=C(C=CC1)[C@@]1([C@H](C1)CCOCC1=CC=CC=C1)CN | C19H22ClNO
